US06303593B1
1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-hydroxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine (isomer 2)
The title compound was prepared from 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-((S)-2-phenylpropionyl)oxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine (isomer 2) according to procedures described in Step 2a. Mass Spectrum (ESI) m/e=543 (M+1 35Cl, 35Cl), 545 (M+1 35Cl, 37Cl), and 547 (M+1 37Cl, 37Cl). [α]D=+16.0 (c=2.0, CHCl3).

reactant | 1-(2,4-dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-((S)-2-phenylpropionyl)oxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)CC(CC2=CC=CC=C2)OC([C@@H](C)C2=CC=CC=C2)=O)C=CC(=C1)Cl | C39H44Cl2N2O2S
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 1-(2,4-Dichlorobenzyl)-3-(S)-(4-(3-phenyl-2-hydroxypropyl)piperidinylmethyl)-4-(S)-(3-thienyl)pyrrolidine | ClC1=C(CN2C[C@@H]([C@H](C2)C2=CSC=C2)CN2CCC(CC2)CC(CC2=CC=CC=C2)O)C=CC(=C1)Cl | C30H36Cl2N2OS
